US08106070B2
2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1-[4-(1,4,5,6-tetrahydro-7H-pyrazolo[3,4-b]pyridin-7-yl)phenyl]propan-2-ol
Hydrogen chloride (4 M in 1,4-dioxane) (1 mL, 4 mmol) was added to an ambient temperature solution of 4-(2,2-dimethylpropyl)-2-{1-hydroxy-1-methyl-2-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-b]pyridin-7-yl)phenyl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide (1 eq) in methanol (3 mL). After stirring at 70° C. for 1 h, volatiles were removed in vacuo. The residue was purified by high pressure liquid chromatography (KR100-5C18 100×21.2 mm column) eluting with 10-100% acetonitrile/water containing 0.05% trifluoroacetic acid. The residue was partitioned between methanol/ethyl acetate and 10% aqueous sodium hydroxide. The aqueous phase was extracted with ethyl acetate. The combined organic extracts were dried (magnesium sulfate) and concentrated in vacuo to afford the title compound. (M+H) found: 394.

reactant | Hydrogen chloride | 4 mmol, 4 M, 1 mL | Cl | ClH
reactant | 4-(2,2-dimethylpropyl)-2-{1-hydroxy-1-methyl-2-[4-(1-{[2-(trimethylsilyl)ethoxy]methyl}-1,4,5,6-tetrahydro-7H-pyrazolo[3,4-b]pyridin-7-yl)phenyl]ethyl}-N,N-dimethyl-1H-imidazole-1-sulfonamide | 1 eq | CC(CC=1N=C(N(C1)S(=O)(=O)N(C)C)C(CC1=CC=C(C=C1)N1C2=C(CCC1)C=NN2COCC[Si](C)(C)C)(C)O)(C)C | C31H50N6O4SSi
solvent | methanol | 3 mL | CO | CH4O
product | 2-[4-(2,2-dimethylpropyl)-1H-imidazol-2-yl]-1-[4-(1,4,5,6-tetrahydro-7H-pyrazolo[3,4-b]pyridin-7-yl)phenyl]propan-2-ol | CC(CC=1N=C(NC1)C(CC1=CC=C(C=C1)N1C2=C(CCC1)C=NN2)(C)O)(C)C | C23H31N5O
